US06716861B2
N-(2-cyanoethyl)methanesulfonamide
A solution of aminopropionitrile fumarate salt (6.0 g, 47 mmol) in 2M NaOH solution (40 ml) was stirred at room temperaute for 15 minutes. The reaction mixture extracted with DCM (50 ml). The organic extract was dried over anhydrous Na2SO4 and filtered. The filtrate was treated pyridine (11 ml, 136 mmol) and methanesulphonyl chloride (3.9 ml, 50 mmol) and stirred under at nitrogen atmosphere for 18 hours. The solvent was removed under reduced pressure. The oil was dissolved in DCM and washed with 2M HCl (2×100 ml) and saturated NaHCO3 solution. All the product had been extracted into the aqueous washings. NaHCO3 solution was acidified with conc. HCl and combined with the other acidic washes. The aqueous washes were reduced to ˜50 ml in volume and extracted with EtOAc. The organic extract was evaporated under reduced pressure to afford the title compound as a pink oil (2.1 g, 30%).

reactant | aminopropionitrile fumarate salt | 47 mmol, 6.0 g | C(\C=C\C(=O)O)(=O)O.NC(C#N)C
reactant | pyridine | 136 mmol, 11 ml | N1=CC=CC=C1 | C5H5N
reactant | methanesulphonyl chloride | 50 mmol, 3.9 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | NaOH | 2M, 40 ml | [OH-].[Na+]
product | N-(2-cyanoethyl)methanesulfonamide | 2.1 g, 30% | C(#N)CCNS(=O)(=O)C | C4H8N2O2S
